### PR TITLE
feat(Wikipedia/Oppermann): fill in proof for easy implication

### PR DESCRIPTION
**Pull request by felixpernegger**

### CODE REVIEW

File: FormalConjectures/Wikipedia/Oppermann.lean [hunk 1]
```diff
@@ -68,7 +68,12 @@ theorem oppermann_implies_brocard (n : ℕ) (hn : 1 ≤ n) (P : type_of% opperma
 @[category high_school, AMS 11]
 theorem oppermann_implies_legendre (n : ℕ) (hn : 1 ≤ n) (P : type_of% oppermann_conjecture) :
     ∃ p ∈ Ioo (n ^ 2) ((n + 1) ^ 2), p.Prime := by
-  sorry
+  obtain ⟨⟨p, ph⟩, _⟩ := P (n + 1) (by simpa)
+  use p
+  simp_all only [mem_Ioo, Nat.reduceLeDiff, add_tsub_cancel_right, and_true]
+  apply lt_of_lt_of_le' ph.1.1
+  rw [sq, add_mul]
+  exact Nat.le_add_right (n * n) (1 * n)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Oppermann.lean]:
```suggestion
  refine ⟨Finset.Ioo_subset_Ioo_left ?_ ph.1, ph.2⟩
  push_cast [sq, add_one_mul,le_self_add]
```

possibly nicer?

**Review by mo271 — COMMENTED** [review]
LGTM, thanks

One suggestion to make the proof potentially a little nicer...

File: FormalConjectures/Wikipedia/Oppermann.lean (hunk 1 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Oppermann.lean]: thanks
